US06130217
o-Benzyloxyphenol (7.5 g, 37.5 mmol) in dry DMF (60 mL) was treated with Me4N+OH-.5H2O (37.5 mmol, 6.8 g) followed by 2-bromothiazole (6.15 g, 37.5 mmol). The stirred solution was heated to about 100° C. under N2 (g) for 16 hours. The mixture was cooled in ice and crystalline, H2O-soluble Me4N+Br- was removed by filtration. The filtrate was concentrated in vacuo and partitioned between Et2O (100 mL) and H2O (60 mL). The organic phase was washed with 1N NaOH (3×) and brine, dried over Na2SO4 and concentrated in vacuo to afford 4.9 g of crude 2-(2-benzyloxyphenyl)thiazole (GCMS m/z 283 (M+)). This material was directly deprotected by treatment with 33% HBr in HOAc (35 mL) for 2 hours at about 20° C.

reactant | o-Benzyloxyphenol | 37.5 mmol, 7.5 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | 2-bromothiazole | 37.5 mmol, 6.15 g | BrC=1SC=CN1 | C3H2BrNS
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-(2-benzyloxyphenyl)thiazole | 4.9 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1SC=CN1 | C16H13NOS
